* r2r_dac_glitch_tb.cir - mid-code glitch bench for r2r_dac_analog (P3
* spec bench, written from spec/spec.md, spec/spec.yaml, spec/topology.md
* only). Siblings: r2r_dac_tb.cir (static), r2r_dac_step_tb.cir (steps).
*
* Measures (spec.yaml names): glitch_energy_up, glitch_energy_down,
* glitch_peak_up, glitch_peak_down, glitch_energy_up_skew_p200p,
* glitch_energy_up_skew_m200p, glitch_energy_down_skew_p200p,
* glitch_energy_down_skew_m200p, glitch_peak_skew_max, i_vdd_peak (also
* in the step bench; see its header).
*
* Stimulus (ns; edge = centre of the 100 ps input edge; MSB = dac_code[7]):
*   0..20  code 127 (operating point first, no uic)
*   20     127 -> 128  aligned            window 20..80    (*_up)
*   80     128 -> 127  aligned            window 80..140   (*_down)
*   140    127 -> 128  MSB 200 ps late    window 140..200  (*_up_skew_p200p)
*   200    128 -> 127  MSB 200 ps late    window 200..260  (*_down_skew_p200p)
*   260    127 -> 128  MSB 200 ps early   window 260..320  (*_up_skew_m200p)
*   320    128 -> 127  MSB 200 ps early   window 320..380  (*_down_skew_m200p)
* "Late"/"early" is the MSB input edge against the other seven (spec.md:
* +200 ps = late). Each window is three 20 ns clock periods.
*
* Definition (spec.md Measures): vi = vout just before the window's code
* edge, vf = vout at the window end; band = [min(vi,vf), max(vi,vf)];
* excursion = distance of vout outside the band (0 inside it);
* energy = integral of the excursion over the window (V.s), peak = its max
* (V). glitch_peak_skew_max = max peak over the four skewed windows.
*
* Pad load ASSUMED (spec.md): R_pad = 100 ohm in series with C_load = 7 pF.
* Corners: typical FET section + res_typical resistor section.

.include '/home/ihsan/.cc/toolchains/iic-osic-tools-2026.09/foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/ihsan/.cc/toolchains/iic-osic-tools-2026.09/foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.spice' typical
.lib '/home/ihsan/.cc/toolchains/iic-osic-tools-2026.09/foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.spice' res_typical
.include '/home/ihsan/.cc/toolchains/iic-osic-tools-2026.09/foss/pdks/gf180mcuD/libs.ref/gf180mcu_fd_sc_mcu7t5v0/spice/gf180mcu_fd_sc_mcu7t5v0.spice'
.include '/home/ihsan/.cc/worktrees/ece298a/r2r-dac/blocks/r2r_dac/analog/log/bench_strength/xrb0a_connection_removed__r2r_dac.cir'
.param ru_w=2e-06 ru_l=0.00015 rb_l=0.00014836

.temp 27
.param vddp=3.3
.param r_pad=100 c_load=7p

vdd vdd 0 {vddp}
vss vss 0 0

* dac_code[k] = b<k>, ideal 0/VDD PWL, 100 ps edges
vb7 b7 0 pwl(0 0 19.95n 0 20.05n {vddp} 79.95n {vddp} 80.05n 0 140.15n 0 140.25n {vddp} 200.15n {vddp} 200.25n 0 259.75n 0 259.85n {vddp} 319.75n {vddp} 319.85n 0)
vb6 b6 0 pwl(0 {vddp} 19.95n {vddp} 20.05n 0 79.95n 0 80.05n {vddp} 139.95n {vddp} 140.05n 0 199.95n 0 200.05n {vddp} 259.95n {vddp} 260.05n 0 319.95n 0 320.05n {vddp})
vb5 b5 0 pwl(0 {vddp} 19.95n {vddp} 20.05n 0 79.95n 0 80.05n {vddp} 139.95n {vddp} 140.05n 0 199.95n 0 200.05n {vddp} 259.95n {vddp} 260.05n 0 319.95n 0 320.05n {vddp})
vb4 b4 0 pwl(0 {vddp} 19.95n {vddp} 20.05n 0 79.95n 0 80.05n {vddp} 139.95n {vddp} 140.05n 0 199.95n 0 200.05n {vddp} 259.95n {vddp} 260.05n 0 319.95n 0 320.05n {vddp})
vb3 b3 0 pwl(0 {vddp} 19.95n {vddp} 20.05n 0 79.95n 0 80.05n {vddp} 139.95n {vddp} 140.05n 0 199.95n 0 200.05n {vddp} 259.95n {vddp} 260.05n 0 319.95n 0 320.05n {vddp})
vb2 b2 0 pwl(0 {vddp} 19.95n {vddp} 20.05n 0 79.95n 0 80.05n {vddp} 139.95n {vddp} 140.05n 0 199.95n 0 200.05n {vddp} 259.95n {vddp} 260.05n 0 319.95n 0 320.05n {vddp})
vb1 b1 0 pwl(0 {vddp} 19.95n {vddp} 20.05n 0 79.95n 0 80.05n {vddp} 139.95n {vddp} 140.05n 0 199.95n 0 200.05n {vddp} 259.95n {vddp} 260.05n 0 319.95n 0 320.05n {vddp})
vb0 b0 0 pwl(0 {vddp} 19.95n {vddp} 20.05n 0 79.95n 0 80.05n {vddp} 139.95n {vddp} 140.05n 0 199.95n 0 200.05n {vddp} 259.95n {vddp} 260.05n 0 319.95n 0 320.05n {vddp})

* DUT, pins in topology.md order: dac_code[7..0] vout vdd vss
xdut b7 b6 b5 b4 b3 b2 b1 b0 vout vdd vss r2r_dac_analog

rpad vout vpad {r_pad}
cload vpad 0 {c_load}

.control
set noaskquit
save v(vout) v(vdd) i(vdd)
tran 10p 380n 0 100p
let vo = v(vout)
let tt = time
let ivdd = -i(vdd)
let gpk = vector(6)
let gen = vector(6)
let gi = 0
foreach e 20 80 140 200 260 320
  let ts = $e * 1n
  let te = ts + 60n
  let tvi = ts - 0.1n
  let tvf = te - 0.1n
  meas tran gvi find v(vout) at=$&tvi
  meas tran gvf find v(vout) at=$&tvf
  let ghi = (gvi gt gvf)*gvi + (gvi le gvf)*gvf
  let glo = (gvi gt gvf)*gvf + (gvi le gvf)*gvi
  let gwin = (tt ge ts) * (tt le te)
  let exc = ((vo - ghi)*(vo gt ghi) + (glo - vo)*(vo lt glo)) * gwin
  meas tran gint integ exc from=$&ts to=$&te
  set gii = "$&gi"
  let gen[$gii] = gint
  let gpk[$gii] = vecmax(exc)
  let gi = gi + 1
end
let glitch_energy_up = gen[0]
let glitch_peak_up = gpk[0]
let glitch_energy_down = gen[1]
let glitch_peak_down = gpk[1]
let glitch_energy_up_skew_p200p = gen[2]
let glitch_energy_down_skew_p200p = gen[3]
let glitch_energy_up_skew_m200p = gen[4]
let glitch_energy_down_skew_m200p = gen[5]
let glitch_peak_skew_max = vecmax(gpk[2,5])
let i_vdd_peak = vecmax(ivdd)

echo
echo "  Measurements for Transient Analysis (r2r_dac_glitch_tb, computed in .control)"
echo "glitch_energy_up = $&glitch_energy_up"
echo "glitch_energy_down = $&glitch_energy_down"
echo "glitch_peak_up = $&glitch_peak_up"
echo "glitch_peak_down = $&glitch_peak_down"
echo "glitch_energy_up_skew_p200p = $&glitch_energy_up_skew_p200p"
echo "glitch_energy_up_skew_m200p = $&glitch_energy_up_skew_m200p"
echo "glitch_energy_down_skew_p200p = $&glitch_energy_down_skew_p200p"
echo "glitch_energy_down_skew_m200p = $&glitch_energy_down_skew_m200p"
echo "glitch_peak_skew_max = $&glitch_peak_skew_max"
echo "i_vdd_peak = $&i_vdd_peak"
echo
.endc

.end
